US05013741
N-[(2-Methylphenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine
1,2,3,4-Tetrahydro-9-acridinamine (4.0 g) was suspended in 400 ml of toluene to which morpholine (3.5 g) and o-tolualdehyde (3.0 g) were successively added. The reaction mixture was refluxed overnight and then an additional 1.5 g of aldehyde was added. Reflux was continued for an additional six (6) hours and then the reaction mixture was concentrated and purified by flash chromatography (CH2Cl2, then 20% EtOAc/CH2Cl2). Fractions containing the pure product were concentrated and recrystallized from benzene/pentane to give 3.32 g of analytically pure product, m.p. 160°-162° C.

reactant | 1,2,3,4-Tetrahydro-9-acridinamine | 4.0 g | C1CCCC2=NC3=CC=CC=C3C(=C12)N | C13H14N2
reactant | morpholine | 3.5 g | N1CCOCC1 | C4H9NO
reactant | o-tolualdehyde | 3.0 g | C=1(C(=CC=CC1)C=O)C | C8H8O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(2-Methylphenyl)methylene]-1,2,3,4-tetrahydro-9-acridinamine | CC1=C(C=CC=C1)C=NC=1C2=CC=CC=C2N=C2CCCCC12 | C21H20N2
